US09169259B2
To a mixture of 4-(8-(6-(2-methylpyrrolidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)phenol (40 mg, 0.1 mmol) and K2CO3 (28 mg, 0.2 mmol) in DMF (5 mL) was added 2-(piperidin-1-yl)ethyl methanesulfonate (25 mg, 0.12 mmol). The mixture was heated at 50° C. for 16 h. After cooling, the mixture was poured into water and extracted with EtOAc (3×10 mL). The combined organic layers were washed with brine then dried over MgSO4. After filtration and concentration, the residue was purified by chromatography (silica, EtOAc) to give N-(6-(2-methylpyrrolidin-1-yl)pyridin-2-yl)-6-(4-(2-(piperidin-1-yl)ethoxy)phenyl)imidazo[1,2-b]pyridazin-8-amine (20 mg, 40%). 1H NMR (300 MHz, CDCl3): δ 8.63 (s, 1H), 8.01-7.90 (m, 4 h), 7.57 (s, 1H), 7.42 (t, 1H, J=7.8 Hz), 7.05-7.01 (m, 2H), 6.21 (d, 1H, J=7.8 Hz), 6.04 (d, 1H, J=8.7 Hz), 4.30-4.20 (m, 3H), 3.70-3.64 (m, 1H), 3.53-3.45 (m, 1H), 2.84 (t, 2H, J=6.2 Hz), 2.56 (brs, 4 h), 2.20-2.03 (m, 3H), 1.78 (brs, 1H), 1.67-1.62 (m, 4 h), 1.50-1.48 (m, 2H), 1.27 (d, 3H, J=6.3 Hz). LC/MS: 498 [M+H]+, tR=1.13 min. HPLC: 99.24% at 214 nm, 99.34% at 254 nm, tR=5.70 min.

reactant | 4-(8-(6-(2-methylpyrrolidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)phenol | 0.1 mmol, 40 mg | CC1N(CCC1)C1=CC=CC(=N1)NC=1C=2N(N=C(C1)C1=CC=C(C=C1)O)C=CN2 | C22H22N6O
reactant | K2CO3 | 0.2 mmol, 28 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-(piperidin-1-yl)ethyl methanesulfonate | 0.12 mmol, 25 mg | CS(=O)(=O)OCCN1CCCCC1 | C8H17NO3S
reactant | water | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | N-(6-(2-methylpyrrolidin-1-yl)pyridin-2-yl)-6-(4-(2-(piperidin-1-yl)ethoxy)phenyl)imidazo[1,2-b]pyridazin-8-amine | 20 mg, 40% | CC1N(CCC1)C1=CC=CC(=N1)NC=1C=2N(N=C(C1)C1=CC=C(C=C1)OCCN1CCCCC1)C=CN2 | C29H35N7O
